US07399775B2
Methyl 3-(N,N-dimethylcarbamoyl)benzoate
To a methylene chloride (20 ml) solution of monomethyl isophthalate (317 mg, 1.76 mmol) were added dimethylamine hydrochloride (172 mg, 2.11 mmol), 1-hydroxybenzotriazole (287 mg, 1.76 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (404 mg, 2.11 mmol) and N-methylmorpholine (0.23 ml, 2.11 mmol) and the resulting mixture was stirred at room temperature for 21 hours. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue. The resulting mixture was washed successively with 1N hydrochloric acid, a saturated aqueous solution of sodium bicarbonate, and brine, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to chromatography on a silica gel column and the fraction obtained from the methanol:methylene chloride (=1:50) eluate was concentrated under reduced pressure, whereby the title compound (290 mg, 80%) was obtained as a colorless oil.

reactant | monomethyl isophthalate | 1.76 mmol, 317 mg | C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC
reactant | dimethylamine hydrochloride | 2.11 mmol, 172 mg | Cl.CNC
reactant | 1-hydroxybenzotriazole | 1.76 mmol, 287 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 2.11 mmol, 404 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | N-methylmorpholine | 2.11 mmol, 0.23 ml | CN1CCOCC1 | C5H11NO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | Methyl 3-(N,N-dimethylcarbamoyl)benzoate | CN(C(=O)C=1C=C(C(=O)OC)C=CC1)C | C11H13NO3
